US05296454
The 2 -methyl-2-(3-thienyl)propionic acid methyl ester obtained in the foregoing Example 7 was added to a water:ethanol (1:4) solution (200 ml) of potassium hydroxide (18.5 g). Then the mixture was refluxed under heating for one hour and concentrated under reduced pressure, followed by a further addition of water thereto. Then the mixture was washed with dichloromethane (100 ml). The aqueous layer was acidified with diluted hydrochloric acid and the liberated carboxylic acid was extracted with dichloromethane (200 ml). The organic layer was dried over anhydrous magnesium sulfate, filtered and the solvent was removed by a water pump. The residue was recrystallized from hexane to obtain 2-methyl-2-(3-thienyl)propionic acid with mp. 78°-80.5° C.

reactant | 2 -methyl-2-(3-thienyl)propionic acid methyl ester | COC(C(C)(C1=CSC=C1)C)=O | C9H12O2S
reactant | potassium hydroxide | 200 ml, 18.5 g | [OH-].[K+]
solvent | water ethanol | O.C(C)O
product | 2-methyl-2-(3-thienyl)propionic acid | CC(C(=O)O)(C)C1=CSC=C1 | C8H10O2S
